US05502054
A solution of 6.0 grams (0.038 mole) of potassium permanganate in about 300 mL of liquid ammonia (-33° C.) is stirred, and 5.3 grams (0.030 mole) of 3-amino-6-bromo-1,2,4-triazine is added portionwise. Upon completion of addition, the reaction mixture is maintained at -33° C. for 15 minutes. Ammonia is then evaporated and the residue is extracted with about 150 mL of hot 1-methylethanol. The solution is concentrated under reduced pressure, yielding 3,5-diamino-6-bromo-1,2,4-triazine.

reactant | potassium permanganate | 0.038 mole, 6.0 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ammonia | N | H3N
reactant | 3-amino-6-bromo-1,2,4-triazine | 0.030 mole, 5.3 grams | NC=1N=NC(=CN1)Br | C3H3BrN4
product | 3,5-diamino-6-bromo-1,2,4-triazine | NC=1N=NC(=C(N1)N)Br | C3H4BrN5
